US06329528B1
The procedure of R. Balicki and L. Kaczmarek, Syn. Comm., 23, 3149 (1993)was used. Into a 1 L round bottom flask equipped with a magnetic stirrer was added acetone (60 mL), water (60 mL) , 2-chloro-6-fluorobenzonitrile (14.5 g, 93.5 mmol), urea (22.5 g, 374 mmol), 30% hydrogen peroxide (42.4 g, 374 mmol), and potassium carbonate (1.3 g, 9.0 mmol). The resulting slurry was stirred at room temperature overnight. Additional portions of urea (11.2 g, 30% hydrogen peroxide (41 g), acetone (30 mL) and potassium carbonate (0.63 g) were added and the mixture was allowed to stir for an additional 2 hr. Additional portions of urea (11.2 g, 30% hydrogen peroxide (41 g), acetone (30 mL) and potassium carbonate (0.63 g) were again added and the mixture was allowed to stir overnight. The acetone was removed in vacuo, the residue extracted with methylene chloride, the organics were combined, washed with brine, dried (MgSO4) and the solvent removed in vacuo to give 15.8 g (97.5% yield) of 2-chloro-6-fluorobenzamide (97% pure by GC): mp140-141° C.; 1H NMR (CDCl3) d 7.2-7.4 (m, 2H), 7.0 (m, 1H), 6.3 (s, b, 1H), 5.9 (s, b, 1H).

reactant | 2-chloro-6-fluorobenzonitrile | 93.5 mmol, 14.5 g | ClC1=C(C#N)C(=CC=C1)F | C7H3ClFN
reactant | urea | 374 mmol, 22.5 g | NC(=O)N | CH4N2O
reactant | hydrogen peroxide | 374 mmol, 42.4 g | OO | H2O2
reactant | potassium carbonate | 9.0 mmol, 1.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 11.2 g | OO | H2O2
reactant | hydrogen peroxide | 11.2 g | OO | H2O2
catalyst | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
catalyst | potassium carbonate | 0.63 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | water | 60 mL | O | H2O
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 2-chloro-6-fluorobenzamide | 15.8 g, 97.5% yield | ClC1=C(C(=O)N)C(=CC=C1)F | C7H5ClFNO
